US09029370B2
b) 2-Cyano-6-methoxy-isonicotinic acid
Under N2, methyl 2-cyano-6-methoxyisonicotinate (0.433 g, 2.25 mmol, Eq: 1.00) was dissolved in THF (25.0 ml) and Methanol (3.03 ml). At 0° C., 1M LiOH in H2O (2.82 ml, 2.82 mmol, Eq: 1.25) was added and the RM was stirred at 0° C. for 30 minutes. Control with TLC: the reaction was finished. The reaction mixture was acidified with 1M HCl. The mixture was diluted with H2O and extracted with EtOAc. The organic phase was dried over MgSO4; filtered; concentrated in vacuo. Light yellow solid. MS (EIC): 176.8 ([M−H]−)

reactant | methyl 2-cyano-6-methoxyisonicotinate | 2.25 mmol, 0.433 g | C(#N)C=1C=C(C(=O)OC)C=C(N1)OC | C9H8N2O3
reactant | LiOH | 1M | [Li+].[OH-]
reactant | HCl | 1M | Cl | ClH
solvent | THF | 25.0 ml | C1CCOC1 | C4H8O
solvent | Methanol | 3.03 ml | CO | CH4O
solvent | H2O | O | H2O
solvent | H2O | 2.82 mmol, 2.82 ml | O | H2O
product | 2-Cyano-6-methoxy-isonicotinic acid | C(#N)C=1C=C(C(=O)O)C=C(N1)OC | C8H6N2O3
